US04948794
A solution of 1.6 g (5,0 mmol) N-diphenylmethyl-2-amino-4fluoroaniline in 100 ml ethyl acetate was hydrogenated at atm. pressure by using 5% Pd/C (100 mg) as a catalyst. The reaction mixture was filtered and 4.2 ml (30 mmol) dry triethylamine was added. 3.4 ml (30 mmol) ethyl oxalylchloride was added dropwise, and the reaction mixture was stirred for 1 h. The reaction mixture was filtered and evaporated in vacuo to give an oil. A mixture of the oil, 40 ml 1N hydrochloric acid and 60 ml ethanol was stirred at 80° C. for 4 h. After cooling to 25° C. 50 ml H2O was added, and the precipitate was filtered off. The crude product was dissolved in 20 ml ethanol, filtered and evaporated in vacuo to give an oil. The oil was stirred with 30 ml water for 1 h. The product was filtered off and dried to give 0.4 g (23%) 1-diphenylmethyl-6-fluoroquinoxaline-2,3(1H,4H)-dione. M.p. 143.8° C., 1H-NMR (CDCl3): 8.5-6.5 (3H, m), 7.2 (10H, s) 3.8 (1H, m).

reactant | N-diphenylmethyl-2-amino-4fluoroaniline | 5,0 mmol, 1.6 g | C1(=CC=CC=C1)C(NC1=C(C=C(C=C1)F)N)C1=CC=CC=C1 | C19H17FN2
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | water | 30 ml | O | H2O
solvent | H2O | 50 ml | O | H2O
product | 1-diphenylmethyl-6-fluoroquinoxaline-2,3(1H,4H)-dione | 0.4 g, 23% | C1(=CC=CC=C1)C(N1C(C(NC2=CC(=CC=C12)F)=O)=O)C1=CC=CC=C1 | C21H15FN2O2
